US04092365
64 g of freshly distilled 2-chloroethyl-vinyl ether is placed into a flask; one drop of concentrated hydrochloric acid is added, and thereupon an addition is made in portions at room temperature, with stirring, of 93 g of 4-phenoxy-phenol (duration of addition about 1 hour). During the addition of 4-phenoxy-phenol, the temperature rises to about 32°- 34° C, with the 4-phenoxy-phenol completely dissolving. After two further hours' stirring, the reaction mixture is diluted with 300 ml of diethyl ether; the ether solution is washed three times with 10% potassium hydroxide solution and three times with saturated sodium chloride solution. The ether solution is subsequently dried over sodium sulphate, and the ether and the readily volatile constituents (traces of 2-chloroethyl-vinyl ether) are completely removed in vacuo. There is obtained 1-(2-chloroethoxy)-1-[(4-phenoxy)-phenoxy]-ethane in the form of colorless oil having a refractive index of nD20 = 1.5516 (yield 98%).

reactant | 2-chloroethyl-vinyl ether | ClCCOC=C | C4H7ClO
reactant | 4-phenoxy-phenol | 93 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
catalyst | hydrochloric acid | one drop | Cl | ClH
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 1-(2-chloroethoxy)-1-[(4-phenoxy)-phenoxy]-ethane | ClCCOC(C)OC1=CC=C(C=C1)OC1=CC=CC=C1 | C16H17ClO3
